US07259183B2
Preparation of (4-tert-butyl-benzyl)-(2-p-tolyl-ethyl)-amine
0.39 ml of 4-tert-butylbenzaldehyde (2.25 mmol) and 0.22 ml 2-p-tolyl-ethylamine (1.5 mmol) were dissolved in 4.5 ml methanol and after stirring for 30 min at rt, were refluxed for 2.5 h. After cooling down to rt, 85 mg (2.25 mmol) sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was then refluxed for 2.5 h. After cooling down to rt, the reaction mixture was treated with 4 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:1) to give 480 mg light yellow viscous oil (100%). MS (ISP) 282.2 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 2.25 mmol, 0.39 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-p-tolyl-ethylamine | 1.5 mmol, 0.22 ml | C1(=CC=C(C=C1)CCN)C | C9H13N
reactant | sodium borohydride | 2.25 mmol, 85 mg | [BH4-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
catalyst | HCl | 1 N, 4 drops | Cl | ClH
product | (4-tert-butyl-benzyl)-(2-p-tolyl-ethyl)-amine | 100% | C(C)(C)(C)C1=CC=C(CNCCC2=CC=C(C=C2)C)C=C1 | C20H27N
